### PR TITLE
[Merged by Bors] - feat(CategoryTheory): Noetherian objects

### PR DESCRIPTION
**Pull request by joelriou**
An object `X` in a category `C` is Noetherian if the ordered type `Subobject X` satisfies the ascending chain condition. In this PR, we show that this property is closed under subobjects. (In a future PR, it shall be shown that if `C` is an abelian category, then this is a Serre class.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Subobject/NoetherianObject.lean [hunk 1]
```diff
@@ -0,0 +1,130 @@
...
+import Mathlib.CategoryTheory.ObjectProperty.ContainsZero
+import Mathlib.CategoryTheory.ObjectProperty.EpiMono
+import Mathlib.CategoryTheory.Limits.Constructions.EventuallyConstant
+import Mathlib.Order.OrderIsoNat
+
+/-!
+# Noetherian objects
+
+We shall say that an object `X` in a category `C` is Noetherian
+(type class `IsNoetherianObkect X`) iff the ordered type `Subobject X`
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Subobject/NoetherianObject.lean:16]:
```suggestion
(type class `IsNoetherianObject X`) if the ordered type `Subobject X`
```

File: Mathlib/CategoryTheory/Category/Preorder.lean [hunk 2]
```diff
@@ -218,3 +218,14 @@ theorem Equivalence.toOrderIso_symm_apply (e : X ≌ Y) (y : Y) :
...
+
+open CategoryTheory
+
+lemma PartialOrder.isIso_iff_eq {X : Type u} [PartialOrder X]
+    {a b : X} (f : a ⟶ b) : IsIso f ↔ a = b := by
+  constructor
+  · intro _
+    exact (asIso f).to_eq
+  · rintro rfl
+    obtain rfl : f = 𝟙 _ := rfl
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Category/Preorder.lean:230]: I think this should also be added as a simp lemma (for example above `homOfLe` in the same file):
```
@[simp]
theorem hom_self_eq_id {x : X} (f : x ⟶ x) : f = 𝟙 x := rfl
```

File: Mathlib/CategoryTheory/Subobject/Basic.lean [hunk 3]
```diff
@@ -236,6 +239,10 @@ theorem mk_arrow (P : Subobject X) : mk P.arrow = P :=
     obtain ⟨e⟩ := @Quotient.mk_out' _ (isIsomorphicSetoid _) Q
     exact Quotient.sound' ⟨MonoOver.isoMk (Iso.refl _) ≪≫ e⟩
 
+lemma mk_surjective {X : C} (S : Subobject X) :
+    ∃ (A : C) (i : A ⟶ X) (_ : Mono i), S = Subobject.mk i :=
+  ⟨_, S.arrow, inferInstance, by simp⟩
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Subobject/Basic.lean:244]:
```suggestion
  ⟨_, S.arrow, inferInstance, (mk_arrow _).symm⟩
```

File: Mathlib/CategoryTheory/Subobject/MonoOver.lean [hunk 4]
```diff
@@ -134,6 +134,18 @@ def isoMk {f g : MonoOver X} (h : f.obj.left ≅ g.obj.left)
...
+  inferInstanceAs (IsIso ((MonoOver.forget _ ⋙ Over.forget _).map f))
+
+lemma isIso_iff_isIso_left {A B : MonoOver X} (f : A ⟶ B) :
+    IsIso f ↔ IsIso f.left := by
+  constructor
+  · intro
+    infer_instance
+  · intro
+    exact ⟨MonoOver.homMk (inv f.left) (by simpa using (MonoOver.w f).symm),
+      Subsingleton.elim _ _, Subsingleton.elim _ _⟩
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Subobject/MonoOver.lean:147]:
```suggestion
  refine ⟨fun _ => inferInstance, fun _ => ?_⟩
  exact ⟨MonoOver.homMk (inv f.left) (by simpa using (MonoOver.w f).symm),
    Subsingleton.elim _ _, Subsingleton.elim _ _⟩
```

**Review by callesonne — COMMENTED** [review]
A few comments, will look over the main file `NotherianObject` later today or tomorrow.

File: Mathlib/CategoryTheory/ObjectProperty/Basic.lean [hunk 5]
```diff
@@ -53,6 +53,15 @@ lemma prop_map_obj (P : ObjectProperty C) (F : C ⥤ D) {X : C} (hX : P X) :
...
   ⟨X, hX, ⟨Iso.refl _⟩⟩
 
+/-- The typeclass associated to `P : ObjectProperty C`. -/
+@[mk_iff]
+class Is (P : ObjectProperty C) (X : C) : Prop where
+  prop : P X
+
+lemma prop_of_is (P : ObjectProperty C) (X : C) [P.Is X] : P X := by rwa [← P.is_iff]
+
+lemma is_of_prop (P : ObjectProperty C) {X : C} (hX : P X) : P.Is X := by rwa [P.is_iff]
```
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/CategoryTheory/ObjectProperty/Basic.lean:63]: I would rather keep on using `P.is_iff` here (and in the next).

File: Mathlib/CategoryTheory/ObjectProperty/Basic.lean [hunk 6]
```diff
@@ -53,6 +53,15 @@ lemma prop_map_obj (P : ObjectProperty C) (F : C ⥤ D) {X : C} (hX : P X) :
     P.map F (F.obj X) :=
   ⟨X, hX, ⟨Iso.refl _⟩⟩
 
+/-- The typeclass associated to `P : ObjectProperty C`. -/
+@[mk_iff]
+class Is (P : ObjectProperty C) (X : C) : Prop where
+  prop : P X
+
+lemma prop_of_is (P : ObjectProperty C) (X : C) [P.Is X] : P X := by rwa [← P.is_iff]
```
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/CategoryTheory/ObjectProperty/Basic.lean:61]: Introducing lemmas/definitions with explicit arguments is a standard procedure for type classes.

File: Mathlib/CategoryTheory/Category/Preorder.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Category/Preorder.lean]: Thanks for the suggestion!

File: Mathlib/CategoryTheory/Subobject/Basic.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Subobject/Basic.lean:244]: When a fast `simp` works, I do not think there is need to provide a term proof.

File: Mathlib/CategoryTheory/Category/Preorder.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Category/Preorder.lean]: I have removed the `simp` attribute because it breaks things downstream.

**Review by callesonne — APPROVED** [review]
Nice!

File: Mathlib/CategoryTheory/Subobject/NoetherianObject.lean [hunk 7]
```diff
@@ -0,0 +1,130 @@
...
+
+* show that `isNoetherian` is a Serre class when `C` is an abelian category
+(TODO @joelriou)
+
+-/
+
+universe v u
+
+open CategoryTheory
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Subobject/NoetherianObject.lean:31]:
```suggestion
```

File: Mathlib/CategoryTheory/Subobject/MonoOver.lean [hunk 8]
```diff
@@ -134,6 +134,15 @@ def isoMk {f g : MonoOver X} (h : f.obj.left ≅ g.obj.left)
...
   isoMk (Iso.refl _)
 
+instance {A B : MonoOver X} (f : A ⟶ B) [IsIso f] : IsIso f.left :=
+  inferInstanceAs (IsIso ((MonoOver.forget _ ⋙ Over.forget _).map f))
+
+lemma isIso_iff_isIso_left {A B : MonoOver X} (f : A ⟶ B) :
+    IsIso f ↔ IsIso f.left :=
+  ⟨fun _ ↦ inferInstance,
+    fun _ ↦ ⟨MonoOver.homMk (inv f.left) (by simpa using (MonoOver.w f).symm),
+      Subsingleton.elim _ _, Subsingleton.elim _ _⟩⟩
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Subobject/MonoOver.lean:144]:
```suggestion
  (isIso_iff_of_reflects_iso _ (MonoOver.forget X ⋙ Over.forget _)).symm
```

File: Mathlib/CategoryTheory/Subobject/Lattice.lean [hunk 9]
```diff
@@ -658,6 +658,17 @@ instance {B : C} : CompleteLattice (Subobject B) :=
 
 end CompleteLattice
 
+lemma subsingleton_of_isZero {X : C} (hX : IsZero X) : Subsingleton (Subobject X) := by
```
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/CategoryTheory/Subobject/Lattice.lean]: Thanks for the suggestion!

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
